US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), 2-amino-5-nitrobenzophenone (727 mg, 3.0 mmol) was added during 20 minutes while maintaining the temperature of the reaction mixture at 28-32° C. At the end of the addition of the aniline, extra t-butylnitrite (360 μl, 3 mmol) was added to the reaction mixture which then was stirred at 25° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 23:2) gave 370 mg (46%) of 2-allyl-5-nitrobenzophenone as a light yellow oil. 1H NMR (CDCl3, 300 MHz) δ 8.29, (dd, 1H, J=8.6, 2.5 Hz), 8.18, (d, 1H, J=2.4 Hz), 7.81-7.74, (m, 2H), 7.69-7.60, (m, 1H), 7.57-7.45, (m, 3H), 5.93-5.88, (m, 1H), 5.09-5.95, (m, 2H), 3.53, (m, 2H, J=6.6 Hz).

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 2-amino-5-nitrobenzophenone | 3.0 mmol, 727 mg | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 3 mmol, 360 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | 2-allyl-5-nitrobenzophenone | 370 mg, 46% | C(C=C)C1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C16H13NO3
